US04243807
A mixture of 22.0 g (0.075 mole) of N-benzoyl-4-phenoxymethylpiperidine, 25 ml of 10 N aqueous sodium hydroxide solution and 175 ml of ethanol is heated under reflux for 18 hours. The reaction mixture is then evaporated in a vacuum and the residue is taken up in diethyl ether, washed with water, dried over anhydrous sodium sulfate and the solvent then evaporated off. There are obtained 12.0 g of 4-phenoxymethylpiperidine (84% of theory); m.p. 42°-43° C.

reactant | N-benzoyl-4-phenoxymethylpiperidine | 0.075 mole, 22.0 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)COC1=CC=CC=C1 | C19H21NO2
reactant | sodium hydroxide | 10 N, 25 ml | [OH-].[Na+]
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 4-phenoxymethylpiperidine | 12.0 g, 84% | O(C1=CC=CC=C1)CC1CCNCC1 | C12H17NO
